US07345075B2
a) 3-(3,5-Dimethylphenyl)amino-4-nitrophenol
5.4 g of 3-fluoro-4-nitrophenol and 4.3 ml of 3,5-dimethylaniline were mixed and stirred for 6 hours at 120° C. After cooling, it was taken up in ethyl acetate and water and extracted three times with 1N aqueous hydrochloric acid. The combined aqueous phases were extracted three times with ethyl acetate. The combined organic phases were dried on sodium sulfate, concentrated by evaporation in a vacuum, and the residue was crystallized.

reactant | 3-fluoro-4-nitrophenol | 5.4 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 3,5-dimethylaniline | 4.3 ml | CC=1C=C(N)C=C(C1)C | C8H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,5-Dimethylphenyl)amino-4-nitrophenol | CC=1C=C(C=C(C1)C)NC=1C=C(C=CC1[N+](=O)[O-])O | C14H14N2O3
